US06013662
358 g (2.52 mol) of methyl iodide and 361 g (2.38 mol) of 1,8-diazabicyclo[5.4.0]undec-7-ene were successively added to a solution of 428 g (1.98 mol) of (RS)-3-oxo-6-phenylcyclohex-1-ene-1-carboxylic acid, which was obtained according to J. Org. Chem., 1971, 36, 3707, in 4.5 cm3 of acetone and then the reaction mixture was brought to reflux for five hours. The acetone was subsequently distilled off and then the residue was stirred with 2.5 dm3 of water. After cooling to 10° C., the precipitate formed was filtered off, washed with ice-cold water and then dried at 30° C. 423 g (93%) of methyl (RS)-3-oxo-6-phenylcyclohex-1-ene-1-carboxylate were thus obtained in the form of a yellow powder, the characteristics of which were as follows:

reactant | methyl iodide | 2.52 mol, 358 g | CI | CH3I
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.38 mol, 361 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | (RS)-3-oxo-6-phenylcyclohex-1-ene-1-carboxylic acid | 1.98 mol, 428 g | O=C1C=C(C(CC1)C1=CC=CC=C1)C(=O)O | C13H12O3
solvent | acetone | 4.5 cm3 | CC(=O)C | C3H6O
product | methyl (RS)-3-oxo-6-phenylcyclohex-1-ene-1-carboxylate | 423 g, 93% | O=C1C=C(C(CC1)C1=CC=CC=C1)C(=O)OC | C14H14O3
